US04065456
2.0 g of potassium hydroxide was dissolved in 80 ml of methanol, and 4.8 g of 1-methyl-5-hydroxy-3,4-dihydrocarbostyril and 4.0 g of glycerol α-monochlorohydrin were added to the resulting solution followed by refluxing the mixture for 4 hours. After allowing the mixture to cool, the precipitated crystals were filtered, and the filtrate was concentrated to dryness. The residue thus obtained was extracted with 120 ml of chloroform, and the extract was washed with a 5% aqueous potassium hydroxide solution and then water and then dried over anhydrous sodium sulfate. The chloroform was then removed by distillation and the resulting residue was recrystallized from ethyl acetate to give 1.5 g of 1-methyl-5-(2,3-dihydroxy)propoxy-3,4-dihydrocarbostyril as a colorless amorphous solid having a melting point of 120° - 121° C.

reactant | potassium hydroxide | 2.0 g | [OH-].[K+]
reactant | 1-methyl-5-hydroxy-3,4-dihydrocarbostyril | 4.8 g | CN1C(=O)CCC2=C(C=CC=C12)O | C10H11NO2
reactant | glycerol α-monochlorohydrin | 4.0 g | C(C(CCl)O)O | C3H7ClO2
solvent | methanol | 80 ml | CO | CH4O
product | 1-methyl-5-(2,3-dihydroxy)propoxy-3,4-dihydrocarbostyril | 1.5 g | CN1C(=O)CCC2=C(C=CC=C12)OCC(CO)O | C13H17NO4
